US07297795B2
A suspension of 2-cyano-N-(2,4-dichloro-5-methoxyphenyl)-3-{[3-iodo-4-(2-methoxyethoxy)phenyl]amino}acrylamide (1.0 g, 1.80 mmol) in 35 mL of toluene was heated to reflux and phosphorous oxychloride (1.7 mL, 18.0 mmol) was added dropwise. The mixture was heated at reflux for 2 hours, and an additional 1.7 mL of phosphorous oxychloride was added. The mixture was continued to heat at reflux for 2 hours, and an additional 1.7 mL of phosphorous oxychloride was added and the reaction mixture was heated at reflux overnight. The reaction is then cooled to room temperature and water was added followed by 10 N sodium hydroxide. The mixture was stirred in an ice-bath for 30 minutes and the precipitate was collected by filtration, washed with methylene chloride to give 870 mg of 4-[(2,4-dichloro-5-methoxyphenyl)amino]-7-iodo-6-(2-methoxyethoxy)-3-quinolinecarbonitrile as a yellow solid; 1H NMR (400 MHz, DMSO-d6) δ 3.41 (s, 3H), 3.81 (t, 2H), 3.87 (s, 3H), 4.34 (t, 2H), 7.40 (s, 1H), 7.78 (s, 1H), 7.88 (s, 1H), 8.43 (s, 1H), 8.45 (s, 1H), 9.85 (s, 1H); MS (ES) m/z542.1, 544.1 (M−H)−

reactant | 2-cyano-N-(2,4-dichloro-5-methoxyphenyl)-3-{[3-iodo-4-(2-methoxyethoxy)phenyl]amino}acrylamide | 1.80 mmol, 1.0 g | C(#N)C(C(=O)NC1=C(C=C(C(=C1)OC)Cl)Cl)=CNC1=CC(=C(C=C1)OCCOC)I | C20H18Cl2IN3O4
reactant | phosphorous oxychloride | 18.0 mmol, 1.7 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | phosphorous oxychloride | 1.7 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | phosphorous oxychloride | 1.7 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | water | O | H2O
reactant | sodium hydroxide | 10 N | [OH-].[Na+]
solvent | toluene | 35 mL | C1(=CC=CC=C1)C | C7H8
product | 4-[(2,4-dichloro-5-methoxyphenyl)amino]-7-iodo-6-(2-methoxyethoxy)-3-quinolinecarbonitrile | 870 mg | ClC1=C(C=C(C(=C1)Cl)OC)NC1=C(C=NC2=CC(=C(C=C12)OCCOC)I)C#N | C20H16Cl2IN3O3
